US07601754B2
A mixture of 1-octene (7.15 g, 64 mmol) and Grubbs' catalyst (0.030 g, 0.04 mmol, 0.0006 equ) was stirred under a static vacuum for 15 hours, then passed through a plug of silica eluting with hexane. Concentration gave tetradec-7-ene (4.982 g, 80%) as a colourless liquid.

reactant | 1-octene | 64 mmol, 7.15 g | C=CCCCCCC | C8H16
catalyst | Grubbs' catalyst | 0.04 mmol, 0.030 g | Cl[Ru](Cl)([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)([P](C4CCCCC4)(C5CCCCC5)C6CCCCC6)=CC7=CC=CC=C7
solvent | hexane | CCCCCC | C6H14
product | tetradec-7-ene | 4.982 g, 80% | CCCCCCC=CCCCCCC | C14H28
